US08067406B2
Production of 1-(2-(2-(1-benzofuran-5-yl)ethoxy)ethyl)-3-pyrrolidinol
1.39 g of 2-(2-(1-benzofuran-5-yl)ethoxy)-1-(3-hydroxy-1-pyrrolidinyl)-1-ethanone was dissolved in 14.0 ml of tetrahydrofuran. Thereafter, 14.4 ml of a tetrahydrofuran solution containing a 1 mol/l borane-tetrahydrofuran complex was added dropwise to the obtained solution while cooling on ice, and the obtained mixture was then stirred at a room temperature for 17 hours. Thereafter, 8.0 ml of 6 mol/l hydrochloric acid was added to the reaction mixture, and the obtained mixture was heated to reflux for 1 hour. After cooling, water and ethyl acetate were added to the reaction mixture. The pH of the obtained mixture was adjusted to pH 10 by addition of a 2 mol/l aqueous sodium hydroxide solution, and an organic layer was separated. The organic layer was successively washed with water and a saturated saline solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was distilled away under a reduced pressure. The residue was purified by column chromatography (eluent; chloroform:methanol=30:1 to 10:1), so as to obtain 0.96 g of an achromatic oil product, 1-(2-(2-(1-benzofuran-5-yl)ethoxy)ethyl)-3-pyrrolidinol.

reactant | 2-(2-(1-benzofuran-5-yl)ethoxy)-1-(3-hydroxy-1-pyrrolidinyl)-1-ethanone | 1.39 g | O1C=CC2=C1C=CC(=C2)CCOCC(=O)N2CC(CC2)O | C16H19NO4
reactant | hydrochloric acid | 6 mol/l, 8.0 ml | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydroxide | 2 mol/l | [OH-].[Na+]
solvent | tetrahydrofuran | 14.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14.4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-(2-(1-benzofuran-5-yl)ethoxy)ethyl)-3-pyrrolidinol | 0.96 g | O1C=CC2=C1C=CC(=C2)CCOCCN2CC(CC2)O | C16H21NO3
